US05779936
A mixture of 50 g (0.17 mol) of 4-(4-pentylcyclohexyl) cyclohexyl acetic acid and 135 Ml of thionyl chloride was heated for 4 hours to reflux. Excess amount of thionyl chloride was separated under a reduced pressure to obtain 4-(4-pentylcyclohexyl)cyclohexyl acetic acid chloride.

reactant | 4-(4-pentylcyclohexyl) cyclohexyl acetic acid | 0.17 mol, 50 g | C(CCCC)C1CCC(CC1)C1CCC(CC1)CC(=O)O | C19H34O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(4-pentylcyclohexyl)cyclohexyl acetic acid chloride | C(CCCC)C1CCC(CC1)C1CCC(CC1)CC(=O)Cl | C19H33ClO
